data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_475056_0,[C:1]([N:3](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:6]\[N:5]([H:8])[H:9])[H:7])([H:10])([H:11])[H:12]>>[C:1]([N:6](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:3]/[H:7])[N:5]([H:8])[H:9])([H:10])([H:11])[H:12],72.32690500001866
MR_480917_1,[C:1]([C:2](=[O:6])[H:13])([C:3]([O:7][H:11])([O:8][H:12])[O:9][H:10])([N:4]([H:14])[H:15])[N:5]([H:16])[H:17]>>[C:1]([C:2]([O:6][H:10])([O:7][H:11])[H:13])([C:3]([O:8][H:12])=[O:9])([N:4]([H:14])[H:15])[N:5]([H:16])[H:17],31.39696249998736
MR_367054_1,[C:1](/[C:5]([N:4]([N:6]([H:10])[H:11])[C:8](=[C:7]([C:2]([H:17])([H:18])[H:22])[C:3]([H:19])([H:20])[H:21])[H:13])=[N:9]/[H:12])([H:14])([H:15])[H:16]>>[C:1](/[C:5]([C:7]([C:2]([H:17])([H:18])[H:22])([C:3]([H:19])([H:20])[H:21])/[C:8](=[N:4]/[N:6]([H:10])[H:11])[H:13])=[N:9]/[H:12])([H:14])([H:15])[H:16],67.98585999999261
MR_423439_0,[C:1](=[C:2]([H:8])[H:9])([O:3][N:4][N:5][H:6])[H:7]>>[C:1]([C:2](/[N:4]=[N:5]\[H:6])([H:8])[H:9])(=[O:3])[H:7],29.07270250000579
MR_176338_1,[C:1](/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:4](\[C:2]([H:14])([H:15])[H:16])[N:6]([H:8])[H:9])([N:7]([H:10])[H:11])([H:12])[H:13]>>[C:1](=[C:5](\[C:3]([H:17])([H:18])[H:19])[C:4]([C:2]([H:14])([H:15])[H:16])([N:6]([H:8])[H:9])[H:13])(\[N:7]([H:10])[H:11])[H:12],69.8313375000059
MR_213223_0,[C:1](=[C:7]([C:6]([N:2]([N:4]([H:10])[H:11])[H:9])([C:3]([N:5]([H:12])[H:13])=[O:8])[H:16])[H:17])([H:14])[H:15]>>[C:1]([N:2]([N:4]([H:10])[H:11])[H:9])(/[C:7](=[C:6](/[C:3]([N:5]([H:12])[H:13])=[O:8])[H:16])[H:17])([H:14])[H:15],48.29114499999406
MR_416921_1,[C:1](/[C:4](=[C:5]([C:2]([H:18])([H:19])[H:20])\[C:3](=[C:7](/[N:6]([H:12])[H:13])[H:14])[O:8][H:10])[O:9][H:11])([H:15])([H:16])[H:17]>>[C:1]([C:4]1([O:9][H:11])[C:5]([C:2]([H:18])([H:19])[H:20])=[C:3]([O:8][H:10])[C:7]1([N:6]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17],38.6056824999784
MR_628019_1,[N:1](=[C:3](/[C:6]1([H:14])[C:2]([C:4]([N:5]([H:12])[H:13])=[O:9])=[N:8]1)[O:7][H:10])\[H:11]>>[n:1]1([H:11])[c:2]([C:4]([N:5]([H:12])[H:13])=[O:9])[n:8][c:6]([H:14])[c:3]1[O:7][H:10],55.9158975000048
MR_292370_0,[C:1](/[N:7]=[C:4](\[C:2]([H:13])([H:14])[H:15])[O:5][C:3]([O:6][H:9])=[O:8])([H:10])([H:11])[H:12]>>[C:1]([N:7]([C:3]([O:6][H:9])=[O:8])[C:4]([C:2]([H:13])([H:14])[H:15])=[O:5])([H:10])([H:11])[H:12],21.858962499991748
MR_341636_0,[C:1]1([H:9])([H:10])[C:6]([C:3]([H:14])([H:15])[H:16])=[N:8][C:5]([C:2]([H:11])([H:12])[H:13])=[C:7]1[C:4]([H:17])([H:18])[H:19]>>[C:1]1([H:9])([H:10])[C:6]2([C:3]([H:14])([H:15])[H:16])[C:7]1([C:4]([H:17])([H:18])[H:19])[C:5]([C:2]([H:11])([H:12])[H:13])=[N:8]2,70.72426999999863
MR_221644_2,[C:1]([C:2]([N:4]([H:9])[H:10])([H:7])[H:8])(=[O:5])[O:6][C:3]([H:11])([H:12])[H:13]>>[C:1]1([O:6][C:3]([H:11])([H:12])[H:13])([H:7])[C:2]([N:4]([H:9])[H:10])([H:8])[O:5]1,59.657052500011645
MR_497694_0,[C:1]([C:5]([C:2]([H:16])([H:17])[H:18])=[C:3](/[C:4]([N:7]([H:11])[H:12])=[N:8]\[H:13])[N:6]([H:9])[H:10])([H:14])([H:15])[H:19]>>[C:1]([C:5]1([C:2]([H:16])([H:17])[H:18])[C:3]([N:6]([H:9])[H:10])=[C:4]([N:7]([H:11])[H:12])[N:8]1[H:13])([H:14])([H:15])[H:19],49.93017499995787
MR_586300_0,[C:1]([C:2]([N:5]([H:13])[H:14])([H:15])[H:16])([C:3]([O:7][H:10])=[O:8])([N:4]([H:11])[H:12])[O:6][H:9]>>[C:1]([C:2]([C:3]([O:7][H:10])=[O:8])([H:15])[H:16])([N:4]([H:11])[H:12])([N:5]([H:13])[H:14])[O:6][H:9],57.19599750001876
MR_464989_1,[C:1]([C:5](=[C:3](/[N:6]([H:12])[H:13])[O:8][H:10])/[C:4](=[C:7](\[C:2]([H:18])([H:19])[H:20])[H:14])[O:9][H:11])([H:15])([H:16])[H:17]>>[C:1]([C:5]1=[C:4]([O:9][H:11])[C@@:7]([C:2]([H:18])([H:19])[H:20])([H:14])[C@:3]1([N:6]([H:12])[H:13])[O:8][H:10])([H:15])([H:16])[H:17],39.87699749997887
MR_367906_0,[C:1](\[N:3]([H:9])[H:10])(=[C:5]([C:2](\[N:4]([H:11])[H:12])=[N:8]/[H:13])/[H:14])[N:7]=[C:6]([H:15])[H:16]>>[C:1](/[C:2]([N:4]([H:11])[H:12])=[N:8]\[H:13])([N:3]([H:9])[H:10])=[C:5](\[N:7]=[C:6]([H:15])[H:16])[H:14],66.95048500000283
MR_469407_2,[C:1]([N:2]([H:9])[H:10])([N:3]([H:11])[H:12])=[N:7]/[C:4](=[N:6]\[O:5][H:8])[H:13]>>[C:1]1([N:2]([H:9])[H:10])([N:3]([H:11])[H:12])[N:6]([O:5][H:8])[C:4]([H:13])=[N:7]1,42.4296675000258
MR_579540_1,[C:1]([N:4]([N:6]([H:10])[H:11])[N:7]([H:12])[H:13])([N:5]([C:2]([H:16])([H:17])[H:21])[C:3]([H:18])([H:19])[H:20])([N:8]([H:14])[H:15])[H:9]>>[C:1]([N:4]([N:5]([C:2]([H:16])([H:17])[H:21])[C:3]([H:18])([H:19])[H:20])[N:6]([H:10])[H:11])([N:7]([H:12])[H:13])([N:8]([H:14])[H:15])[H:9],52.643485000027255
MR_440402_2,[C:1]1([N:5]([H:10])[H:11])([H:9])[C:4]([O:6][C:2]([H:13])([H:14])[H:15])([O:7][C:3]([H:16])([H:17])[H:18])[N:8]1[H:12]>>[C:1](/[C:4]([O:7][C:3]([H:16])([H:17])[H:18])=[N:8]/[H:12])([N:5]([H:10])[H:11])([O:6][C:2]([H:13])([H:14])[H:15])[H:9],29.93425999997072
MR_561835_1,[C:1]1([H:11])([H:12])[C:2]([H:13])([H:14])[N:7]=[C:4]([N:5]([H:9])[H:10])[N:3]1[O:6][H:8]>>[C:1]1([H:11])([H:12])[C:2]([H:13])([H:14])[N:7]1/[C:4](=[N:3]/[O:6][H:8])[N:5]([H:9])[H:10],68.4677800000243
